US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 51 using (S)-4-amino-8-methylthiochromane-7-carboxylic acid methyl ester (4.50 g), potassium carbonate (3.14 g) and di-tert-butyldicarbonate (5.80 g), the objective (S)-4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid methyl ester (5.04 g) was obtained as colorless crystals.

reactant | (S)-4-amino-8-methylthiochromane-7-carboxylic acid methyl ester | 4.50 g | COC(=O)C1=CC=C2[C@H](CCSC2=C1C)N | C12H15NO2S
reactant | potassium carbonate | 3.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyldicarbonate | 5.80 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (S)-4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid methyl ester | 5.04 g | COC(=O)C1=CC=C2[C@H](CCSC2=C1C)NC(=O)OC(C)(C)C | C17H23NO4S
